US06673790B1
N-(4-Chlorophenyl)-2-oxopropionamide, Compound XI.1
26.3 g of 4-chlorophenylamine in 150 ml of dichloromethane and 35 ml of triethylamine are added, at −60° C., to 22 g of 2-oxopropionyl chloride (prepared according to Synthesis, 1975, 163-164 from 2-oxopropionic acid and 1,1-dichlorodimethyl ether) in 350 ml of dichloromethane. The reaction mixture is stirred at −60° C. for 2 hours and then 200 ml of a 0.15N aqueous hydrochloric acid solution and 500 ml of dichloromethane are added at −30° C. The organic phase is extracted, washed with a 0.25N aqueous hydrochloric acid solution and dried over sodium sulphate. The solvents are evaporated under reduced pressure and the residue obtained is crystallized from dichloromethane;

reactant | 4-chlorophenylamine | 26.3 g | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | 2-oxopropionyl chloride | 22 g | O=C(C(=O)Cl)C | C3H3ClO2
reactant | hydrochloric acid | 0.15N | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-(4-Chlorophenyl)-2-oxopropionamide | ClC1=CC=C(C=C1)NC(C(C)=O)=O | C9H8ClNO2
